US08389511B2
tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-(phenoxy-methyl)-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-piperidine-1-carboxylate
A solution of tert-butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-2-{[(methylsulfonyl)oxy]methyl}-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}(isopropyl)amino]piperidine-1-carboxylate (170 mg), phenol (18 mg) and cesium carbonate (186 mg) in N,N-dimethylformamide (2 ml) was stirred at 80° C. for 5 hours. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (49 mg).

reactant | tert-butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-2-{[(methylsulfonyl)oxy]methyl}-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]-carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 170 mg | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(COS(=O)(=O)C)C)=O)C(=O)OCC2=CC=CC=C2 | C43H53F3N4O10S
reactant | phenol | 18 mg | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 186 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | tert-Butyl (3R)-3-[{[4-(2-{benzyl[(benzyloxy)carbonyl]amino}ethyl)-2-methyl-3-oxo-2-(phenoxy-methyl)-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]-piperidine-1-carboxylate | 49 mg | C(C1=CC=CC=C1)N(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(COC2=CC=CC=C2)C)=O)C(=O)OCC2=CC=CC=C2 | C48H55F3N4O8
